US06727264B1
7-(3-NITROPHENYL)-1H-INDOLE:
Prepared by Procedure I and Scheme T using 7-bromo-1H-indole and 3-nitrophenylboronic acid: ESMS m/e: 238.9 (M+H)+.

reactant | 7-bromo-1H-indole | BrC=1C=CC=C2C=CNC12 | C8H6BrN
reactant | 3-nitrophenylboronic acid | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | 7-(3-NITROPHENYL)-1H-INDOLE | [N+](=O)([O-])C=1C=C(C=CC1)C=1C=CC=C2C=CNC12 | C14H10N2O2
